US09216964B2
A mixture containing 5-methylpyridin-2-amine (5.4 g, 50 mmol), phthalic anhydride (8.88 g, 60 mmol) and DIEA (19 ml, 110 mmol) in toluene (30 ml) is refluxed for 18 hours, and cooled. The solvent is removed by rotary evaporation. The crude product is purified by silica gel flash chromatography to afford 2-(5-methylpyridin-2-yl)isoindoline-1,3-dione as a dark brown oil. LC-MS m/z: 239.1 (M+1).

reactant | 5-methylpyridin-2-amine | 50 mmol, 5.4 g | CC=1C=CC(=NC1)N | C6H8N2
reactant | phthalic anhydride | 60 mmol, 8.88 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | DIEA | 110 mmol, 19 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(5-methylpyridin-2-yl)isoindoline-1,3-dione | CC=1C=CC(=NC1)N1C(C2=CC=CC=C2C1=O)=O | C14H10N2O2
